US04643990
α-Hydroxypalmitic acid (3.2 g) was dissolved in pyridine (15 ml), and palmitoyl chloride (3.3 g) was added thereto at 0° C. The resulting mixture was allowed to stand overnight at room temperature. The reaction mixture was poured into water and the aqueous solution was stirred at room temperature for 1 hour, followed by acidification with 1N hydrochloric acid, and extraction with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated to give a residue which was recrystallized from petroleum ether to afford crystals of 2-hexadecanoyloxyhexadecanoic acid (5.4 g). M.p. 55°-56° C.

reactant | α-Hydroxypalmitic acid | 3.2 g | OC(C(=O)O)CCCCCCCCCCCCCC | C16H32O3
reactant | palmitoyl chloride | 3.3 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
reactant | water | O | H2O
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | 2-hexadecanoyloxyhexadecanoic acid | 5.4 g | C(CCCCCCCCCCCCCCC)(=O)OC(C(=O)O)CCCCCCCCCCCCCC | C32H62O4
